US05744471
7-Chloro-4-hydroxy-2-[2-(4-phenylpiperazino)ethyl]-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione.
2(2-Bromoethyl)-7-chloro-4-hydroxy-1,2,5,10-tetrahydropyridazino[4,5-b]-quinoline-1,10-dione (0.500 g, 1.35 mM) was stirred in dimethylformamide (10 mL), and N-phenylpiperazine (10 mL, 10.6 g, 65.5 mM) was added. The resulting yellow suspension was heated to ~110° C. to form a clear yellow solution. The solution was heated for 6 hours during which time a precipitate formed. The suspension was cooled to room temperature and stirred for five days. The resulting yellow suspension was dissolved into aqueous methanol (500 mL, 50%). The pH of this solution was carefullyadjusted to pH=6 with 1N hydrochloric acid (~20 mL) which gave a yellow precipitate. This suspension was stirred for 1 hour and filtered togive the title compound contaminated with N-phenylpiperazine (0.753 g). This material was recrystallized from hot ethanol (200 mL) to give the title compound (0.428 g, 70%) as a yellow powder, mp 361°-364° C.; MS(CI): 452 (M+H). Analysis for C23 H22ClN5O3 : Calculated: C,61.10; H,4.91; N,15.50; Found: C,60.72; H,5.06; N,15.30; NMR: 7.95 (d, J=8.67 Hz, 1H),7.64 (br s, 1H),7.26-7.18 (m, 3H), 6.95 (d, J=8.07 Hz, 2H), 6.78 (t, J=7.32 Hz, 1H), 4.15 (br s, 2H), 3.55-2.85 (br m, 10H).

reactant | 2(2-Bromoethyl)-7-chloro-4-hydroxy-1,2,5,10-tetrahydropyridazino[4,5-b]-quinoline-1,10-dione | 1.35 mM, 0.500 g | BrCCN1N=C(C=2NC=3C=C(C=CC3C(C2C1=O)=O)Cl)O | C13H9BrClN3O3
reactant | N-phenylpiperazine | 65.5 mM, 10 mL, 10.6 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | methanol | 500 mL | CO | CH4O
reactant | hydrochloric acid | 1N, ~20 mL | Cl | ClH
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 7-Chloro-4-hydroxy-2-[2-(4-phenylpiperazino)ethyl]-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 0.428 g, 70% | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)CCN3CCN(CC3)C3=CC=CC=C3)O)=O | C23H22ClN5O3
